US07612089B2
B. Preparation of N-[4-(3-oxazolidinylcarbonyl)phenyl]-2N-(4-chlorophenylaminocarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamide
To a solution of 2N-(4-chlorophenylaminocarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (50 mg, 0.15 mmol) and 4-(3-oxazolidinylcarbonyl)phenylamine (25 mg, 0.13 mmol) in DMF (3 mL), EDC (75 mg, 0.39 mmol) was added. The reaction mixture was stirred at room temperature overnight. It was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound as a white powder (26 mg). MS 505.2 and 507.2 (M+H, Cl pattern).

reactant | (4-chlorophenylaminocarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 0.15 mmol, 50 mg | ClC1=CC=C(C=C1)NC(=O)C1NC(CC2=CC=CC=C12)C(=O)O | C17H15ClN2O3
reactant | 4-(3-oxazolidinylcarbonyl)phenylamine | 0.13 mmol, 25 mg | O1CN(CC1)C(=O)C1=CC=C(C=C1)N | C10H12N2O2
reactant | EDC | 0.39 mmol, 75 mg
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[4-(3-oxazolidinylcarbonyl)phenyl]-2N-(4-chlorophenylaminocarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamide | 26 mg | O1CN(CC1)C(=O)C1=CC=C(C=C1)NC(=O)C1N(CC2=CC=CC=C2C1)C(=O)NC1=CC=C(C=C1)Cl | C27H25ClN4O4
